US08252797B2
To a solution of 3-(3-{4-[2,6-dioxo-1,3-dipropyl-7-(2-trimethylsilanyl-ethoxymethyl)-2,3,6,7-tetrahydro-1H-purin-8-yl]-pyrazol-1-yl}-prop-1-ynyl)-benzoic acid ethyl ester (50 mg, 0.08 mmol) in THF (5 ml), NaBH4 (5 mg, 0.16 mmol) was added slowly at 0° C. It was stirred for 3 h at room temperature. Water was added to reaction mixture and extracted with ethyl acetate. The organic layer was washed with brine, dried over Na2SO4 and then filtered and concentrated under vacuum. The residue obtained was purified by column chromatography to obtain 8-{1-[3-(3-hydroxymethyl-phenyl)-prop-2-ynyl]-1H-pyrazol-4-yl}-1,3-dipropyl-7-(2-trimethylsilanyl-ethoxymethyl)-3,7-dihydro-purine-2,6-dione (25 mg, 54%) as an yellow oil.

reactant | 3-(3-{4-[2,6-dioxo-1,3-dipropyl-7-(2-trimethylsilanyl-ethoxymethyl)-2,3,6,7-tetrahydro-1H-purin-8-yl]-pyrazol-1-yl}-prop-1-ynyl)-benzoic acid ethyl ester | 0.08 mmol, 50 mg | C(C)OC(C1=CC(=CC=C1)C#CCN1N=CC(=C1)C1=NC=2N(C(N(C(C2N1COCC[Si](C)(C)C)=O)CCC)=O)CCC)=O | C32H42N6O5Si
reactant | NaBH4 | 0.16 mmol, 5 mg | [BH4-].[Na+]
reactant | Water | O | H2O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 8-{1-[3-(3-hydroxymethyl-phenyl)-prop-2-ynyl]-1H-pyrazol-4-yl}-1,3-dipropyl-7-(2-trimethylsilanyl-ethoxymethyl)-3,7-dihydro-purine-2,6-dione | 25 mg, 54% | OCC=1C=C(C=CC1)C#CCN1N=CC(=C1)C1=NC=2N(C(N(C(C2N1COCC[Si](C)(C)C)=O)CCC)=O)CCC | C30H40N6O4Si
